US05885997
4-[2-[2-Butyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzaldehyde
The title compound (1.1 g, 25%) was prepared from 2-butyl4-methyl-1,6-dihydro-6-pyrimidone (2.3 g, 13.85 mmol), 4-[2-bromoethoxy]benzaldehyde (3.17 g, 13.85 mmol) in the presence of K2CO3 (3.82 g, 27.7 mmol) as base by a similar procedure to that described in preparation 1.

reactant | 2-butyl4-methyl-1,6-dihydro-6-pyrimidone | 13.85 mmol, 2.3 g | C(CCC)C=1NC(C=C(N1)C)=O | C9H14N2O
reactant | 4-[2-bromoethoxy]benzaldehyde | 13.85 mmol, 3.17 g | BrCCOC1=CC=C(C=O)C=C1 | C9H9BrO2
reactant | K2CO3 | 27.7 mmol, 3.82 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-[2-[2-Butyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzaldehyde | 1.1 g, 25% | C(CCC)C=1N(C(C=C(N1)C)=O)CCOC1=CC=C(C=O)C=C1 | C18H22N2O3
